US06313311B1
a) 3-(3-Benzyl-3H-imidazol-4-yl)-1-(4-isobutylphenyl)-propen-1-one
A solution of 4-isobutylacetophenone (2.0 g), 3-benzyl-3H-imidazole-4-carbaldehyde (2.1 g) and 48% sodium hydroxide (0.65 ml) in methanol (20 ml) is heated at 55-60° C. for 6 hours. The reaction mixture is then cooled in an ice bath. The resulting precipitate is filtered, and rinsed with methanol. The yield is 2.5 g.

reactant | 4-isobutylacetophenone | 2.0 g | CC(C)CC1=CC=C(C=C1)C(=O)C | C12H16O
reactant | 3-benzyl-3H-imidazole-4-carbaldehyde | 2.1 g | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | sodium hydroxide | 0.65 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-(3-Benzyl-3H-imidazol-4-yl)-1-(4-isobutylphenyl)-propen-1-one | C(C1=CC=CC=C1)N1C=NC=C1C=CC(=O)C1=CC=C(C=C1)CC(C)C | C23H24N2O
